US05607956
1-(2-Thiazolyl)-1-(2-thienyl)ethanol
n-Butyllithium (2.5M solution in hexanes, 13.4 ml) in dry diethyl ether (25 ml) was added dropwise to a stirred solution of 2-bromothiazole (5 g) in diethyl ether (50 ml) at -70° C. under an atmosphere of dry nitrogen. After 30 minutes, 2-acetylthiophene (3.85 g) in diethyl ether (25 ml) was added dropwise. After a further 1 hour the mixture was allowed to warm to room temperature and was left stirring overnight. Water was added.

reactant | n-Butyllithium | 2.5M, 13.4 ml | C(CCC)[Li]
reactant | 2-bromothiazole | 5 g | BrC=1SC=CN1 | C3H2BrNS
reactant | 2-acetylthiophene | 3.85 g | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | Water | O | H2O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 1-(2-Thiazolyl)-1-(2-thienyl)ethanol | S1C(=NC=C1)C(C)(O)C=1SC=CC1 | C9H9NOS2
